US04772600
2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridine
A mixture of 2,3-diaminopyridine (10.9 g, 0.1 mole), p-chlorobenzoic acid (16.0 g, 0.102 mole), and 150 g of polyphosphoric acid was heated at 180° C. in an oil bath for 31/2 hr. The reaction mixture was neutralized with concentrated ammonium hydroxide and basified with sodium hydroxide. The precipitate was filtered and washed with water. The solid was treated with dilute sodium hydroxide, filtered, washed with water, and dried under high vacuum at 60° C. overnight. A 3-g sample was dissolved in hot methanol, and the solution was treated with 3 g of charcoal, and filtered through a Celite pad. The product crystallized from the filtrate upon cooling. The precipitate was filtered, washed with methanol-water (2:1), and dried under high vacuum at 70° C. to give 1.0 g of the title compound, mp 305°-8° C. with sublimation.

reactant | 2,3-diaminopyridine | 0.1 mole, 10.9 g | NC1=NC=CC=C1N | C5H7N3
reactant | p-chlorobenzoic acid | 0.102 mole, 16.0 g | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridine | 1.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1 | C12H8ClN3
